Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / iodinated IV dye / fenofibrate / Sulfa 
(Sulfonamide Antibiotics) / contrast dye / shellfish derived
 
Attending: ___
 
Chief Complaint:
Lower extremity edema, left lower extremity cellulitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ hx decompensated cirrhosis (child ___ B; decompensated with 
portal hypertension, bleeding from esophageal varices status 
post banding, hepatic encephalopathy and volume overload), HTN, 
HLD, CAD, T2DM, BPH, migraine, depression who presents with LLE 
pain, redness, and swelling. He was seen in liver clinic today, 
where he was thought to be volume overloaded with bilateral 
lower extremity edema, with skin breakdown LLE. Per hepatology 
note, sent to ED for admission and tx for cellulitis, and 
diuresis with Lasix/albumin. 

Today reports 3 weeks of worsening leg edema, skin blisters LLE, 
warmth. No fevers or chills. Reports he gets chest discomfort 
and dyspnea while walking > 1 block, which is stable over 
months. No abd pain, nausea, vomiting, diarrhea. Worsening ___ 
edema; per hepatology notes, there may be some dietary 
indiscretion when his wife cooks. Notes he takes baths with 
water immersion of his feet. 

In the ED, initial VS were: 98.2 78 127/45 18 96% RA 
Exam notable for:  ___ with 2+ edema to knees bilat; LLE with 
? cellulitis vs stasis dermatitis. Labs showed:  Lactate:2.0, 
WBC 7.8, Cr 1.2 Imaging showed: CXR with No consolidation, RUQ 
US: Patent hepatic vasculature. No focal lesions, within the 
limits of the examination. 
Consults: hepatology  
Patient received: 1gm Vancomycin IV 
 
Transfer VS were:  98.8 67 140/65 14 98% RA  

On arrival to the floor, patient reports no complaints aside 
from discomfort in his left lower extremity when putting weight 
on the leg. 
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as 
per HPI, also with intermittent diarrhea over the last few 
months

 
Past Medical History:
1.  Significant coronary artery disease.
2.  Hypertension.
3.  Recurrent seizures.
4.  COPD.
5.  Cervical epidural steroid injection.
6.  Cataracts.
7.  Status post malignant colonic polyp removal.
8.  Alcohol abuse.
9.  Diabetes.
10.  BPH.
11.  Anxiety, depression.
12.  Migraines.
13.  Hypercholesterolemia.
14. ALLERGIES: Penicillins / iodinated IV dye / fenofibrate / 
Sulfa
(Sulfonamide Antibiotics) / contrast dye / shellfish derived  
 
Social History:
___
Family History:
He has multiple family members with alcoholism.  His brother is 
alcoholic.  His another brother died from alcoholic cirrhosis.  
He has siblings who live in ___ in ___.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
================================
VS: 98.4PO 137/67 71 18 97 Ra   
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: mildly distended, nontender in all quadrants
EXTREMITIES: 3+ pitting edema bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose. No 
asterixis
SKIN: warm and well perfused. Numerous small, round lesions in 
the right lower extremity with minimal drainage. No purulence, 
no induration. With surrounding area of erythema, warmth and 
tenderness on the calf, outlined with skin marker  

DISCHARGE PHYSICAL EXAM:
================================
VS: 98.1 134/75 59 18 98 Ra
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
NECK: supple, no LAD, no JVD but +HJR 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: softly distended, RUQ tenderness to deep palpation
otherwise non tender, skin with scattered brown macules
EXTREMITIES: trace pitting edema bilaterally to the knees, 
+outlined erythema on the left shin with scattered blisters, 
right shin also with darkening
NEURO: A&Ox3, moving all 4 extremities with purpose. No 
asterixis

 
Pertinent Results:
ADMISSION LABS:
=====================
___ 07:55PM BLOOD WBC-7.8 RBC-4.13* Hgb-13.3* Hct-40.6 
MCV-98 MCH-32.2* MCHC-32.8 RDW-12.5 RDWSD-44.7 Plt ___
___ 07:55PM BLOOD Neuts-64.8 ___ Monos-9.7 Eos-3.6 
Baso-1.0 Im ___ AbsNeut-5.03 AbsLymp-1.60 AbsMono-0.75 
AbsEos-0.28 AbsBaso-0.08
___ 07:55PM BLOOD ___ PTT-31.0 ___
___ 07:55PM BLOOD Glucose-209* UreaN-13 Creat-1.2 Na-139 
K-4.5 Cl-101 HCO3-25 AnGap-13
___ 07:55PM BLOOD ALT-29 AST-35 AlkPhos-105 TotBili-1.3
___ 06:33AM BLOOD Calcium-9.3 Phos-3.0 Mg-1.9
___ 07:55PM BLOOD Albumin-3.9
___ 07:23AM BLOOD %HbA1c-7.8* eAG-177*
___ 08:08PM BLOOD Lactate-2.0

DISCHARGE LABS:
=====================
___ 06:54AM BLOOD WBC-8.1 RBC-4.08* Hgb-13.1* Hct-39.0* 
MCV-96 MCH-32.1* MCHC-33.6 RDW-12.0 RDWSD-42.0 Plt ___
___ 06:54AM BLOOD ___ PTT-31.6 ___
___ 06:54AM BLOOD Glucose-219* UreaN-15 Creat-1.1 Na-138 
K-4.4 Cl-98 HCO3-27 AnGap-13
___ 06:54AM BLOOD ALT-24 AST-28 LD(LDH)-260* AlkPhos-87 
TotBili-2.3* DirBili-0.5* IndBili-1.8
___ 06:54AM BLOOD Albumin-3.7 Calcium-9.7 Phos-2.9 Mg-1.8

MICROBIOLOGY:
======================
___ Blood Cx - NGTD, pending

IMAGING:
======================
___ ABDOMINAL U/S: 
Patent hepatic vasculature.  No focal lesions, within the limits 
of the examination.

___ CXR:
There is no consolidation.  There are no pleural effusions.  The 
heart is normal in size.  The aorta is atherosclerotic.  The 
trachea is midline.  The visualized osseous structures are 
unremarkable.

 
Brief Hospital Course:
SUMMARY:
================
___ hx decompensated cirrhosis (child ___ B; decompensated with 
portal hypertension, bleeding from esophageal varices status 
post banding, hepatic encephalopathy and volume overload 
presenting with LLE pain, swelling and redness concerning for 
cellulitis. 

ACTIVE ISSUES:
================
# LLE SWELLING and 
# ?CELLULITIS:
Patient p/w worsening LLE pain, swelling, and redness with 
blistering. He was given 40mg IV Lasix for two days in addition 
to his spironolactone, and then transitioned back to his home 
dose of Lasix 40mg qd with an increase in his spironolactone 
from 50mg to 100mg daily. His exam was concerning for possible 
cellulitis with MRSA involvement (history of MRSA skin 
infections) given that pt had some weeping blisters and has had 
MRSA skin infections in the past. However, he also has 
chronic-looking skin changes that may indicate underlying venous 
stasis changes. He was treated with vancomycin in-house, to 
improvement of his erythema. He was continued on doxycycline BID 
for a total of a 7-day course of antimicrobial therapy. His 
final day of therapy will be ___.

# ETOH CIRRHOSIS:
Child's ___ B, complicated by bleeding varices, hepatic 
encephalopathy, and volume overload. Possibly due to dietary 
indiscretion at home (Pt has his wife's family cooking for them 
oftentimes, and it is generally salty food). Nutrition consulted 
and provided recommendations for low salt intake. His edema 
improved after 2 doses of active diuresis with 40mg IV 
furosemide + albumin. He was transitioned to an oral diuretic 
regimen of 40mg furosemide/100mg spironolactone (increased from 
50mg spironolactone that he had previously been on).
- Continued on home propranolol for variceal bleed PPx
- Continued on home HE regimen

# DIARRHEA:
Pt with some complaints of on and off diarrhea for several 
months. It was not bothersome during his hospital stay, so a C. 
diff was not checked.

CHRONIC/STABLE ISSUES:
===========================
# CORONARY ARTERY DISEASE:
- Home antihypertensives as below
- Consider starting a statin as outpatient (has possibly not 
been on it due to cirrhosis, but if he has not had adverse 
reactions likely could tolerate a low to moderate intensity 
statin).

# HISTORY OF DIABETES:
- Followed by ___ Associates
- ___ = 7.8
- D/c on home insulin regimen, no changes made:
U-500 insulin sliding scale (no standing insulin)
Pre-meal blood sugar, units 
(B = breakfast, D = dinner)
< 70 - B 0, D 0
< 80 - B 20, D 15
< 90 - B 30, D 25
< 100 - B 40, D 35
100-150 - B 65, D 50 
151-200 - B 70, D 55
201-250 - B 75, D 60
251-300 - B 80, D 65
301-350 - B 85, D 70
351-400 - B 90, D 75
401-450 - B 95, D 80
> 450 - B 100, D 85

# HYPERTENSION:
- Home enalapril and imdur

# SEIZURE DISORDER:
- Home lamotrigine

# COPD:
- Home Prozac and aricept

# ANEMIA, BASELINE:
- Home iron supplements

# GERD:
- Home pantoprazole

# BPH:
- Home oxybutynin

TRANSITIONAL ISSUES:
========================
#CODE: Full (confirmed)
#CONTACT: wife ___ ___ 
#DISCHARGE WEIGHT: 101.6kg

[ ] MEDICATION CHANGES:
- Added: Doxycycline (___ therapy ___
- Changed: Spironolactone (50mg -> 100mg daily)

[ ] DISCHARGE CREATININE:
- Creatinine 1.1 on ___.

[ ] FOLLOW UP LABS:
- Please obtain chem10 on ___. Please fax results to the 
___ at ___, attn: Dr. ___.

[ ] LOW SODIUM DIET:
- Encouraged Pt to reduce his sodium intake to 2g daily.
- Nutrition consulted for further evaluation.

[ ] MRSA SKIN INFECTIONS:
- Pt with a reported history of multiple MRSA skin infections in 
the past. Consider a decontamination regimen with chlorhexidine 
baths for Pt.

[ ] DIABETES MELLITUS:
- Pt had reported some hypoglycemia while on his home regimen of 
U-500. However, he felt comfortable returning on same.
- Please consider downtitrating his insulin regimen, or giving 
him doses of long-acting insulin, to prevent 
hyperglycemia/hypoglycemia.

[ ] CARDIAC RISK FACTORS:
- Pt is currently not taking a statin, reasons are unclear
- If tolerates, consider starting on Atorvastatin 80mg QHS
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyclobenzaprine 10 mg PO TID:PRN muscle spasm 
2. Donepezil 5 mg PO QHS 
3. Enalapril Maleate 20 mg PO DAILY 
4. Vitamin D ___ UNIT PO QMONTHLY 
5. FLUoxetine 60 mg PO DAILY 
6. Furosemide 40 mg PO DAILY 
7. LamoTRIgine 75 mg PO DAILY 
8. Montelukast 10 mg PO DAILY 
9. Nitroglycerin SL 0.4 mg SL Q15MIN PRN chest pain 
10. Oxybutynin 15 mg PO QHS 
11. Pantoprazole 40 mg PO Q24H 
12. Pregabalin 50 mg PO BID 
13. Propranolol 10 mg PO TID 
14. Spironolactone 50 mg PO DAILY 
15. Cetirizine 10 mg PO DAILY 
16. Ferrous Sulfate 325 mg PO BID 
17. Multivitamins 1 TAB PO DAILY 
18. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using U500 InsulinMax Dose Override 
Reason: U500 insulin

19. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN itching 

20. DiphenhydrAMINE 25 mg PO Q6H:PRN rash 
21. Glucose Tab ___ TAB PO PRN hypoglycemia 
22. Albuterol 0.083% Neb Soln 1 NEB IH Q4-6H sob, wheezing 
23. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
24. Lidocaine 5% Ointment 1 Appl TP TID:PRN pain 
25. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 
26. Clotrimazole Cream 1 Appl TP BID to groin 
27. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H Duration: 11 Doses 
Final day of therapy through ___. 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*11 Tablet Refills:*0 
2.  Spironolactone 100 mg PO DAILY 
RX *spironolactone 100 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
3.  Albuterol 0.083% Neb Soln 1 NEB IH Q4-6H sob, wheezing  
4.  Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath  
5.  Cetirizine 10 mg PO DAILY  
6.  Clotrimazole Cream 1 Appl TP BID to groin  
7.  Cyclobenzaprine 10 mg PO TID:PRN muscle spasm  
8.  DiphenhydrAMINE 25 mg PO Q6H:PRN rash  
9.  Donepezil 5 mg PO QHS  
10.  Enalapril Maleate 20 mg PO DAILY  
11.  Ferrous Sulfate 325 mg PO BID  
12.  FLUoxetine 60 mg PO DAILY  
13.  Furosemide 40 mg PO DAILY  
14.  Glucose Tab ___ TAB PO PRN hypoglycemia  
15.  Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using U500 InsulinMax Dose Override 
Reason: U500 insulin
 
16.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
17.  LamoTRIgine 75 mg PO DAILY  
18.  Lidocaine 5% Ointment 1 Appl TP TID:PRN pain  
19.  Montelukast 10 mg PO DAILY  
20.  Multivitamins 1 TAB PO DAILY  
21.  Nitroglycerin SL 0.4 mg SL Q15MIN PRN chest pain  
22.  Oxybutynin 15 mg PO QHS  
23.  Pantoprazole 40 mg PO Q24H  
24.  Pregabalin 50 mg PO BID  
25.  Propranolol 10 mg PO TID  
26.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  
27.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN 
itching  
28.  Vitamin D ___ UNIT PO QMONTHLY  
29.Outpatient Lab Work
L03.90:  Cellulitis
Please obtain chem10 on ___.  Please fax results to the 
___ at ___, attn: Dr. ___.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Left lower extremity swelling
Concern for cellulitis

SECONDARY DIAGNOSES:
History of cirrhosis, Child ___ class B; decompensated by 
esophageal variceal bleeding, hepatic encephalopathy, and volume 
overload
History of coronary artery disease
Hypertension
Seizure disorder
History of chronic obstructive pulmonary disease
History of diabetes
Benign prostatic hyperplasia
History of anxiety
Anemia, stable
Gastroesophageal reflux

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at the ___ 
___.

WHY WAS I SEEN IN THE HOSPITAL?
- You were having worsening left leg pain, redness, and 
swelling.

WHAT DID WE DO WHILE YOU WERE IN THE HOSPITAL?
- We gave you water pills through the IV ("Lasix") to reduce 
your swelling.
- We gave you antibiotics through the IV to treat your 
infection.
- We gave you pills to complete your antibiotic course.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
- Please take all your antibiotics as prescribed.  
 
Followup Instructions:
___